US04055661
A mixture of 4.0 parts of 2-n-dodecyl-3-hydroxy-1,4-naphthoquinone, 4.4 parts of propionic anhydride, and 50 parts of pyridine was stirred at room temperature for 16 hours. The resulting mixture was evaporated under reduced pressure to remove the pyridine. The residue was crystallized from methanol to give 2.9 parts of 2-n-dodecyl-3-propionyloxy-1,4-naphthoquinone, m.p. 42°-44° C.

reactant | 2-n-dodecyl-3-hydroxy-1,4-naphthoquinone | C(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C22H30O3
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-n-dodecyl-3-propionyloxy-1,4-naphthoquinone | C(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1OC(CC)=O)=O)=O | C25H34O4
